US09315491B2
4-(4-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine
4-[6-chloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine (0.2 g, 1 eq) was stirred under hydrogen balloon with platinum on carbon (10 percent, 0.11 g, 0.1 eq) in a mixture of MeOH and EA (1:1, 8 mL) at room temperature overnight. The reaction mixture was then filtered through Celite, the volatiles in the mixture was removed in vacuo, and the residue was purified by flash chromatography to give a white solid (0.13 g, 83%).

reactant | 4-[6-chloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine | 0.2 g, 1 eq | ClC1=C(C(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1CCOCC1)OCC | C16H17ClN4O4
catalyst | platinum on carbon | 0.11 g, 0.1 eq | [Pt] | Pt
solvent | MeOH | CO | CH4O
solvent | EA | 8 mL | CC(OCC)=O | C4H8O2
product | 4-(4-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.13 g, 83% | ClC1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C16H19ClN4O2
